US06511995B1
Synthesis of 3-acetyloxy-7-[(5-nitro-2-pyridinyl)oxy]-1H-indene
To 5.00 g of 4-[(5-nitro-2-piridinyl)oxy]-1-indanone, 10 ml of isopropenyl acetate and 70 mg of p-toluenesulfonic acid were added and the mixture was stirred at 80° C. After 7.5 hours, the reaction solution was concentrated under reduced pressure. To the resulting residue, ethyl acetate was added and the solution was washed in turn with a saturated sodium hydrogencarbonate solution and a saturated sodium chloride solution. The solution extracted with ethyl acetate was dried over anhydrous magnesium sulfate and the solvent was distilled off. The resulting residue was washed with isopropyl ether in a hot state to obtain 4.70 g of the titled compound.

reactant | 4-[(5-nitro-2-piridinyl)oxy]-1-indanone | 5.00 g | [N+](=O)([O-])C=1C=CC(=NC1)OC1=C2CCC(C2=CC=C1)=O | C14H10N2O4
reactant | p-toluenesulfonic acid | 70 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | isopropenyl acetate | 10 ml | C(C)(=O)OC(=C)C | C5H8O2
product | 3-acetyloxy-7-[(5-nitro-2-pyridinyl)oxy]-1H-indene | 4.70 g | C(C)(=O)OC1=CCC2=C(C=CC=C12)OC1=NC=C(C=C1)[N+](=O)[O-] | C16H12N2O5
